US09255110B2
Sodium borohydride (30 mg, 0.079 mmol) was added to a solution of 6-formyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl}-amide (20 mg, 0.038 mmol) in a mixture of tetrahydrofuran (1.5 mL) and water (0.1 mL) and the resulting mixture was stirred at room temperature for 2.5 hours. The solvent was evaporated under reduced pressure to give 6-hydroxymethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl}-amide as an oily residue.

reactant | Sodium borohydride | 0.079 mmol, 30 mg | [BH4-].[Na+]
reactant | 6-formyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl}-amide | 0.038 mmol, 20 mg | C(C)(C)(C)[Si](OC1CCC(CC1)OC1=C(C=C(C=C1)Cl)NC(=O)C=1C=NN2C1N=CC(=C2)C=O)(C)C | C26H33ClN4O4Si
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
solvent | water | 0.1 mL | O | H2O
product | 6-hydroxymethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid {2-[4-(tert-butyl-dimethyl-silanyloxy)-cyclohexyloxy]-5-chloro-phenyl}-amide | C(C)(C)(C)[Si](OC1CCC(CC1)OC1=C(C=C(C=C1)Cl)NC(=O)C=1C=NN2C1N=CC(=C2)CO)(C)C | C26H35ClN4O4Si
